US08426411B2
tert-Butyl 2-(6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazine carboxylate (0.16 g, 0.38 mmol) was stirred in 1,4-dioxane (1.9 mL) in a sealed vial to give a brown solution. HCl (4 M in 1,4-dioxane, 0.958 mL, 3.83 mmol) was added and the reaction stirred at ambient temperature for about 20 h. The solvents were removed under reduced pressure. The residue was partitioned between saturated aqueous NaHCO3 (10 mL) and EtOAc (10 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic extracts were washed with brine (20 mL), dried over anhydrous Na2SO4, filtered, and concd in vacuo to provide 2-hydrazinyl-6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (0.089 g, 73%): LC/MS (Table 1, Method a) Rt=1.92 min; MS m/z: 318 (M+H)+.

reactant | tert-Butyl 2-(6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)hydrazine carboxylate | 0.38 mmol, 0.16 g | CC1=CC=2C(=NC=C(N2)NNC(=O)OC(C)(C)C)N1S(=O)(=O)C1=CC=C(C)C=C1 | C19H23N5O4S
reactant | HCl | 3.83 mmol, 4 M, 0.958 mL | Cl | ClH
solvent | 1,4-dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
product | 2-hydrazinyl-6-methyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 0.089 g, 73% | N(N)C=1N=C2C(=NC1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C)C=C2 | C14H15N5O2S
